US05240573
(4) Synthesis of 3-decyl-1, 5, 8, 11-tetrazacyclotridecane-2,4-dione for comparative example
A one liter round bottomed flask was charged with 0.053 mol (15.9 g) of ethyl n-decylmalonate, 0.053 mol (7.738 g) triethylene tetramine, and 500 ml absolute ethanol. During refluxing for 42 days, 2 ml aloquotes were removed by hypodermic syringe on days 7, 15, 22, and 37 for NMR analysis to determine the completeness of the reaction. After termination of the reflux the ethanol was distilled away and the product recrystallized from cold acetonitrile to yield 10.89 g of a very light fluffy white precipitate representing approximately a 60.0% conversion to the titled compound.

reactant | ethyl n-decylmalonate | 0.053 mol, 15.9 g | C(CCCCCCCCC)C(C(=O)OCC)C(=O)[O-]
reactant | triethylene tetramine | 0.053 mol, 7.738 g | NCCNCCNCCN | C6H18N4
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-decyl-1, 5, 8, 11-tetrazacyclotridecane-2,4-dione | C(CCCCCCCCC)C1C(NCCNCCNCCNC1=O)=O | C19H38N4O2
